US04938794
Ethyl 2-[(2-fluoro-4-chlorophenyl)-1,1-diazanediyl]-(2-fluoro-6-difluoromethoxybenzoyl)acetate (460 mg) and potassium carbonate (137 mg) were added to N,N-dimethylformamide (10 ml), and the resultant mixture was heated at 100° C. for 1 hour. The mixture was cooled to room temperature, and was poured into ice-water (about 50 ml). After allowing it to stand overnight, the precipitated crystals were collected by filtration, washed with water (5 ml) two times and were dried under reduced pressure to give 410 mg of desired ethyl 1-(2-fluoro-4-chlorophenyl)-1,4-dihydro-4-oxo-5-difluoromethoxycinnoline-3-carboxylate (yield: 93.8%). m.p., 140°-142° C.

reactant | Ethyl 2-[(2-fluoro-4-chlorophenyl)-1,1-diazanediyl]-(2-fluoro-6-difluoromethoxybenzoyl)acetate | 460 mg | FC1=C(C=CC(=C1)Cl)NN=C(C(=O)OCC)C(C1=C(C=CC=C1OC(F)F)F)=O | C18H13ClF4N2O4
reactant | potassium carbonate | 137 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | ethyl 1-(2-fluoro-4-chlorophenyl)-1,4-dihydro-4-oxo-5-difluoromethoxycinnoline-3-carboxylate | 410 mg, yield: 93.8% | FC1=C(C=CC(=C1)Cl)N1N=C(C(C2=C(C=CC=C12)OC(F)F)=O)C(=O)OCC | C18H12ClF3N2O4
